US08278331B2
To 60% NaH in mineral oil (0.119 g, 2.97 mmol), under an atmosphere of argon, was added anhydrous DMF (3 mL) and the slurry was cooled in an ice bath. To this suspension was added, in portions, a solution of 2-chloropyridin-4-ol (0.35 g, 2.70 mmol) in DMF (2 mL). The reaction mixture was stirred cold for 5 minutes and then allowed to warm to RT and stirred for 20 minutes. 1,5-difluoro-2-methyl-4-nitrobenzene (0.514 g, 2.97 mmol) was added and the reaction mixture heated at 90° C. for 3 hours, cooled to RT, quenched with water and the mixture was extracted with EtOAc (3×). The combined organic phases were washed with brine, dried (Na2SO4), concentrated in vacuo and purified by silica gel column chromatography (EtOAc/hexanes) to obtain 2-chloro-4-(5-fluoro-2-methyl-4-nitrophenoxy)pyridine (0.48 g, 63% yield) MS (ESI) m/z: 283.0 (M+H+).

reactant | NaH | [H-].[Na+]
reactant | 2-chloropyridin-4-ol | 2.70 mmol, 0.35 g | ClC1=NC=CC(=C1)O | C5H4ClNO
reactant | 1,5-difluoro-2-methyl-4-nitrobenzene | 2.97 mmol, 0.514 g | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])C | C7H5F2NO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-chloro-4-(5-fluoro-2-methyl-4-nitrophenoxy)pyridine | 0.48 g, 63% yield | ClC1=NC=CC(=C1)OC1=C(C=C(C(=C1)F)[N+](=O)[O-])C | C12H8ClFN2O3
